US07601716B2
4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(4-methoxybenzyl)benzamide
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-methoxybenzylamine as in General Procedure 10 to give the title compound. LCMS: m/z=566.97 (M+H+); retention time=0.90 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
product | 4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(4-methoxybenzyl)benzamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)NCC2=CC=C(C=C2)OC)C=C3)C1)C(F)(F)F | C30H26ClF3N4O2
